US05834468
Methyl 4-[N-(2-(phenethyl)benzyl)amino]benzoate was prepared from 2-(phenethyl)benzaldehyde and methyl 4-aminobenzoate using a similar method to that of Example 4 paragraph (G).

reactant | 2-(phenethyl)benzaldehyde | C(CC1=CC=CC=C1)C1=C(C=O)C=CC=C1 | C15H14O
reactant | methyl 4-aminobenzoate | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
product | Methyl 4-[N-(2-(phenethyl)benzyl)amino]benzoate | C(CC1=CC=CC=C1)C1=C(CNC2=CC=C(C(=O)OC)C=C2)C=CC=C1 | C23H23NO2
